US04826852
By reaction of 9,10-didehydro-6-methylergoline-8β-amine with 1,1'-thiocarbonyldiimidazole and diethylamine analogously to Example 11, 3-(9,10-didehydro-6-methyl-8β-ergolinyl)-1,1-diethylthiourea is obtained, mp 207° C. (decomposition) and, respectively, therefrom the hydrogen maleate in a 74.7% yield (based on the 8β-amine), mp 180° C. (decomposition).

reactant | 9,10-didehydro-6-methylergoline-8β-amine | CN1C[C@@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)N | C15H17N3
reactant | 1,1'-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | diethylamine | C(C)NCC | C4H11N
product | 3-(9,10-didehydro-6-methyl-8β-ergolinyl)-1,1-diethylthiourea | 74.7% yield | CN1C[C@@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC(N(CC)CC)=S | C20H26N4S
